US05112594
To isoprenyl alcohol (80.0 g, 929 mmol) in CH2Cl2 (500 ml) at 0° C. was added one drop of methanesulfonic acid. To this solution was added 2,3-dihydropyran (100 ml, 1.10 mol) dropwise over 3 h. After the addition was complete triethylamine (5 ml) was added and the resulting mixture was filtered through a thin pad Of SiO2 and concentrated to afford 159 g (100%) of 2-(3-methyl-3-butenyloxy)tetrahydropyran as a colorless liquid.

reactant | isoprenyl alcohol | 929 mmol, 80.0 g | C(=CC(C)=C)O | C5H8O
reactant | 2,3-dihydropyran | 1.10 mol, 100 ml | O1CCCC=C1 | C5H8O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | methanesulfonic acid | one drop | CS(=O)(=O)O | CH4O3S
product | 2-(3-methyl-3-butenyloxy)tetrahydropyran | 159 g, 100% | CC(CCOC1OCCCC1)=C | C10H18O2
